US08067638B2
N-[2-bromo-6-(2,2,2-trifluoro-1-trifluoromethylethoxy)-pyridin-3-yl]3-(benzoylamino)benzamide (Compound No. 1-387)
Using N-[2 bromo-6-(2,2,2-trifluoro-1-trifluoromethylethoxy)-pyridin-3-yl]3-aminobenzamide and benzoyl chloride, the desired title product was prepared according to the conditions as described in Example 1-4 (Yield: 76%).

reactant | N-[2 bromo-6-(2,2,2-trifluoro-1-trifluoromethylethoxy)-pyridin-3-yl]3-aminobenzamide | BrC1=NC(=CC=C1NC(C1=CC(=CC=C1)N)=O)OC(C(F)(F)F)C(F)(F)F | C15H10BrF6N3O2
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | N-[2-bromo-6-(2,2,2-trifluoro-1-trifluoromethylethoxy)-pyridin-3-yl]3-(benzoylamino)benzamide | BrC1=NC(=CC=C1NC(C1=CC(=CC=C1)NC(C1=CC=CC=C1)=O)=O)OC(C(F)(F)F)C(F)(F)F | C22H14BrF6N3O3
